US05166188
Methyl (E)-4-(4-aminophenyl)-3-butenoate
7.5 g of (E)-4-(4-(acetylamino)phenyl)-3-butenoic acid was dissolved in a 1N aqueous solution of potassium hydroxide. The obtained solution was heated under reflux for 4 hours and cooled by allowing to stand. After the pH of the solution had been adjusted to about 3 by the addition of concentrated hydrochloric acid, the resulting solution was concentrated under a reduced pressure, followed by the addition of benzene. The obtained mixture was concentrated and freed from the water by azeotropic distillation to obtain a solid. 300 ml of methanol and 1 ml of concentrated sulfuric acid were added to the solid. The obtained mixture was heated under reflux for 3 hours, cooled by allowing to stand and concentrated under a reduced pressure. An aqueous solution of potassium carbonate was added to the residue and the obtained mixture was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of common salt successively and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography [solvent: n-hexane/ethyl acetate (2:1)] to obtain 5.38 g of the title compound as a lightly orange-colored oil (yield: 82%).

reactant | (E)-4-(4-(acetylamino)phenyl)-3-butenoic acid | 7.5 g | C(C)(=O)NC1=CC=C(C=C1)/C=C/CC(=O)O | C12H13NO3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 300 ml | CO | CH4O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | potassium hydroxide | [OH-].[K+]
product | Methyl (E)-4-(4-aminophenyl)-3-butenoate | 5.38 g | NC1=CC=C(C=C1)/C=C/CC(=O)OC | C11H13NO2
